### PR TITLE
[Merged by Bors] - feat(Computability/TuringDegree): define oracle computability and Turing degrees

### PR DESCRIPTION
**Pull request by tannerduve**
Define a model of **oracle computability**, introducing Turing reducibility (`≤ᵀ`), Turing equivalence (`≡ᵀ`), and Turing degrees as the quotient under Turing equivalence.

- `RecursiveIn O f`: A function `f` is recursive in a set of oracles `O` if it can be computed using `O` via basic operations (zero, successor, pairing, composition, primitive recursion, and μ-recursion).
- `TuringReducible`: The relation that `f` is recursive in `{g}`, i.e., `f ≤ᵀ g`.
- `TuringEquivalent`: A relation defining Turing equivalence between partial functions.
- `TuringDegree`: The set of equivalence classes under `TuringEquivalent`, forming a **partially ordered structure**.

Additionally:
- Prove that `TuringReducible` is a **preorder** (reflexive, transitive).
- Show that `TuringEquivalent` is an **equivalence relation**.
- Establish that **partial recursive functions** correspond to functions recursive in the empty oracle set.

This formalization follows classical recursion theory (Odifreddi, Soare) and extends previous work by Carneiro.

Co-authored-by: Elan Roth

---

### Breaking Changes
None.

### Dependencies
None.

### CODE REVIEW

File: Mathlib/Computability/TuringDegrees.lean [hunk 1]
```diff
@@ -0,0 +1,298 @@
...
+    exact Nat.Partrec.rfind ih
+
+/--
+A partial function `f` is partial recursive if and only if it is recursive in
+every partial function `g`.
+-/
+theorem partrec_iff_partrec_in_everything (f : ℕ →. ℕ) : Nat.Partrec f ↔ ∀ g, f ≤ᵀ g :=
+  ⟨(·.turingReducible), (· _ |>.partrec_of_zero)⟩
+
+/--
```
Comment (LeoDog896) [inline Mathlib/Computability/TuringDegrees.lean:157]: You don't neeed to attach doc comments to theorems and instances, unless they are not self-explanitory. However, all `def`s need doc comments.

File: Mathlib/Computability/TuringDegrees.lean [hunk 2]
```diff
@@ -0,0 +1,298 @@
...
+`f` is Turing equivalent to `g` if `f` is reducible to `g` and `g` is reducible to `f`.
+-/
+abbrev TuringEquivalent (f g : ℕ →. ℕ) : Prop :=
+  AntisymmRel TuringReducible f g
+
+/--
+Custom infix notation for `TuringEquivalent`.
+-/
```
Comment (LeoDog896) [inline Mathlib/Computability/TuringDegrees.lean:106]: This should inherit the docs from `TuringEquivalent` above (see uses of `@[inherit_doc]`)

File: Mathlib/Computability/TuringDegrees.lean [hunk 3]
```diff
@@ -0,0 +1,298 @@
+/-
+Copyright (c) 2024 Tanner Duve. All rights reserved.
```
Comment (LeoDog896) [inline Mathlib/Computability/TuringDegrees.lean:2]: (2025! :tada:)

File: Mathlib/Computability/TuringDegrees.lean [hunk 4]
```diff
@@ -0,0 +1,298 @@
...
+-/
+@[symm]
+theorem TuringEquivalent.symm {f g : ℕ →. ℕ} (h : f ≡ᵀ g) : g ≡ᵀ f :=
+  Equivalence.symm equivalence h
+
+/--
+Proof that `TuringEquivalent` is transitive.
+-/
+@[trans]
+theorem TuringEquivalent.trans (f g h : ℕ →. ℕ) (h1 : f ≡ᵀ g) (h2 : g ≡ᵀ h) : f ≡ᵀ h :=
```
Comment (LeoDog896) [inline Mathlib/Computability/TuringDegrees.lean:226]: You should use unicode subscripts `h₁`, typed as `h\1` (though, while this naming scheme is outside of my experience, I suspect that renaming f g h to something else might make the hypothesis names more clear. Then again, I would wait for another reviewer to check me on this.)

File: Mathlib/Computability/TuringDegrees.lean [hunk 5]
```diff
@@ -0,0 +1,298 @@
...
+-/
+lemma TuringReducible.partrec_of_zero (f : ℕ →. ℕ) (fRecInZero : f ≤ᵀ fun _ => Part.some 0) :
+  Nat.Partrec f := by
+  induction fRecInZero
+  · exact Nat.Partrec.zero
+  · exact Nat.Partrec.succ
+  · exact Nat.Partrec.left
+  · exact Nat.Partrec.right
+  · case oracle g hg =>
+    simp at hg; rw [hg]
```
Comment (LeoDog896) [inline Mathlib/Computability/TuringDegrees.lean:139]: You want to explicitly call `simp`, use `suffices`, or try to find some other way of proving this that avoids using a [non-terminal simp](https://leanprover-community.github.io/extras/simp.html#non-terminal-simps).

**Review by tristan-f-r — DISMISSED** [review]
I suspect that a lot of these theorems can be golfed. I'll have a little more time later to try golfing these, but these are just my preliminary style reviews.

File: Mathlib/Computability/TuringDegrees.lean [hunk 6]
```diff
@@ -0,0 +1,298 @@
...
+Instance declaring that `TuringReducible` is reflexive.
+-/
+instance : IsRefl (ℕ →. ℕ) TuringReducible :=
+  ⟨fun f => TuringReducible.refl f⟩
+
+/--
+Proof that turing reducibility is transitive.
+-/
+theorem TuringReducible.trans {f g h : ℕ →. ℕ} (hg : f ≤ᵀ g) (hh : g ≤ᵀ h) :
+  f ≤ᵀ h := by
```
Comment (LeoDog896) [inline Mathlib/Computability/TuringDegrees.lean:173]:
```suggestion
    f ≤ᵀ h := by
```

**Comment by tannerduve** [comment]
Made the suggested fixes, made the repetitive inductive proofs a bit shorter but not sure if the `induction' P with _ _ _ ...` style I used is preferred,

File: Mathlib/Computability/TuringDegrees.lean [hunk 7]
```diff
@@ -0,0 +1,220 @@
...
+/--
+The type of partial functions recursive in a set of oracle `O` is the smallest type containing
+the constant zero, the successor, left and right projections, each oracle `g ∈ O`,
+and is closed under pairing, composition, primitive recursion, and μ-recursion.
+-/
+inductive RecursiveIn (O : Set (ℕ →. ℕ)) : (ℕ →. ℕ) → Prop
+  | zero : RecursiveIn O (fun _ => 0)
+  | succ : RecursiveIn O Nat.succ
+  | left : RecursiveIn O (fun n => (Nat.unpair n).1)
+  | right : RecursiveIn O (fun n => (Nat.unpair n).2)
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:68]:
```suggestion
  | left : RecursiveIn O fun n => (Nat.unpair n).1
  | right : RecursiveIn O fun n => (Nat.unpair n).2
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 8]
```diff
@@ -0,0 +1,220 @@
...
+  | oracle : ∀ g ∈ O, RecursiveIn O g
+  | pair {f h : ℕ →. ℕ} (hf : RecursiveIn O f) (hh : RecursiveIn O h) :
+      RecursiveIn O (fun n => (Nat.pair <$> f n <*> h n))
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:71]:
```suggestion
      RecursiveIn O fun n => (Nat.pair <$> f n <*> h n)
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 9]
```diff
@@ -0,0 +1,220 @@
...
+  | comp {f h : ℕ →. ℕ} (hf : RecursiveIn O f) (hh : RecursiveIn O h) :
+      RecursiveIn O (fun n => h n >>= f)
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:73]:
```suggestion
      RecursiveIn O fun n => h n >>= f
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 10]
```diff
@@ -0,0 +1,220 @@
...
+  | prec {f h : ℕ →. ℕ} (hf : RecursiveIn O f) (hh : RecursiveIn O h) :
+      RecursiveIn O (fun p =>
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:75]:
```suggestion
      RecursiveIn O fun p =>
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 11]
```diff
@@ -0,0 +1,220 @@
...
+        let (a, n) := Nat.unpair p
+        n.rec (f a) (fun y IH => do
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:77]:
```suggestion
        n.rec (f a) fun y IH => do
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 12]
```diff
@@ -0,0 +1,220 @@
...
+          let i ← IH
+          h (Nat.pair a (Nat.pair y i))
+        )
+      )
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:81]:
```suggestion

```

File: Mathlib/Computability/TuringDegrees.lean [hunk 13]
```diff
@@ -0,0 +1,220 @@
...
+  | rfind {f : ℕ →. ℕ} (hf : RecursiveIn O f) :
+      RecursiveIn O (fun a =>
+        Nat.rfind (fun n => (fun m => m = 0) <$> f (Nat.pair a n))
+      )
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:85]:
```suggestion
      RecursiveIn O fun a =>
        Nat.rfind fun n => (fun m => m = 0) <$> f (Nat.pair a n)

```

File: Mathlib/Computability/TuringDegrees.lean [hunk 14]
```diff
@@ -0,0 +1,220 @@
...
+infix:50 "≤ᵀ" => TuringReducible
+
+/--
+`f` is Turing equivalent to `g` if `f` is reducible to `g` and `g` is reducible to `f`.
+-/
+abbrev TuringEquivalent (f g : ℕ →. ℕ) : Prop :=
+  AntisymmRel TuringReducible f g
+
+@[inherit_doc TuringEquivalent]
+infix:50 "≡ᵀ" => TuringEquivalent
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:102]:
```suggestion
scoped[Computability] infix:50 " ≡ᵀ " => TuringEquivalent
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 15]
```diff
@@ -0,0 +1,220 @@
...
+
+/--
+If a function is partial recursive, then it is recursive in every partial function.
+-/
+lemma Nat.Partrec.turingReducible (f : ℕ →. ℕ) (pF : Nat.Partrec f) (g : ℕ →. ℕ) : f ≤ᵀ g := by
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:107]:
```suggestion
lemma Nat.Partrec.turingReducible (pF : Nat.Partrec f) : f ≤ᵀ g := by
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 16]
```diff
@@ -0,0 +1,220 @@
...
+    apply RecursiveIn.prec ih₁ ih₂
+  · case rfind =>
+    apply RecursiveIn.rfind ih
+
+/--
+If a function is recursive in the constant zero function,
+then it is partial recursive.
+-/
+lemma TuringReducible.partrec_of_zero (f : ℕ →. ℕ) (fRecInZero : f ≤ᵀ fun _ => Part.some 0) :
+  Nat.Partrec f := by
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:124]:
```suggestion
lemma TuringReducible.partrec_of_zero (fRecInZero : f ≤ᵀ fun _ => Part.some 0) : Nat.Partrec f := by
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 17]
```diff
@@ -0,0 +1,220 @@
...
+  · rw [Set.mem_singleton_iff] at hg; rw [hg];
+    exact Nat.Partrec.zero
+  repeat {constructor; assumption; try assumption}
+
+/--
+A partial function `f` is partial recursive if and only if it is recursive in
+every partial function `g`.
+-/
+theorem partrec_iff_partrec_in_everything (f : ℕ →. ℕ) : Nat.Partrec f ↔ ∀ g, f ≤ᵀ g :=
+  ⟨(·.turingReducible), (· _ |>.partrec_of_zero)⟩
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:136]:
```suggestion
theorem partrec_iff_forall_turingReducible : Nat.Partrec f ↔ ∀ g, f ≤ᵀ g :=
  ⟨fun hf _ ↦ hf.turingReducible, (· _ |>.partrec_of_zero)⟩
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 18]
```diff
@@ -0,0 +1,220 @@
...
+
+theorem TuringReducible.refl (f : ℕ →. ℕ) : f ≤ᵀ f := by
+  apply RecursiveIn.oracle; simp
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:139]:
```suggestion
protected theorem TuringReducible.refl (f : ℕ →. ℕ) : f ≤ᵀ f := .oracle _ <| by simp
protected theorem TuringReducible.rfl : f ≤ᵀ f := .refl _
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 19]
```diff
@@ -0,0 +1,220 @@
...
+
+instance : IsRefl (ℕ →. ℕ) TuringReducible :=
+  ⟨fun f => TuringReducible.refl f⟩
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:142]:
```suggestion
instance : IsRefl (ℕ →. ℕ) TuringReducible where refl _ := .rfl
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 20]
```diff
@@ -0,0 +1,220 @@
...
+
+theorem TuringReducible.trans {f g h : ℕ →. ℕ} (hg : f ≤ᵀ g) (hh : g ≤ᵀ h) :
+    f ≤ᵀ h := by
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:145]:
```suggestion
theorem TuringReducible.trans (hg : f ≤ᵀ g) (hh : g ≤ᵀ h) : f ≤ᵀ h := by
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 21]
```diff
@@ -0,0 +1,220 @@
...
+  · case prec =>
+    apply RecursiveIn.prec ih₁ ih₂
+  · case rfind =>
+    apply RecursiveIn.rfind ih
+
+instance : IsTrans (ℕ →. ℕ) TuringReducible :=
+  ⟨@TuringReducible.trans⟩
+
+instance : IsPreorder (ℕ →. ℕ) TuringReducible where
+  refl := TuringReducible.refl
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:162]:
```suggestion
  refl := .refl
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 22]
```diff
@@ -0,0 +1,220 @@
...
+
+theorem TuringEquivalent.equivalence : Equivalence TuringEquivalent :=
+  (AntisymmRel.setoid _ _).iseqv
+
+@[refl]
+theorem TuringEquivalent.refl (f : ℕ →. ℕ) : f ≡ᵀ f :=
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:168]:
```suggestion
protected theorem TuringEquivalent.refl (f : ℕ →. ℕ) : f ≡ᵀ f :=
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 23]
```diff
@@ -0,0 +1,220 @@
...
+  Equivalence.refl equivalence f
+
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:170]:
```suggestion

protected theorem TuringEquivalent.rfl : f ≡ᵀ f := .refl _

```

File: Mathlib/Computability/TuringDegrees.lean [hunk 24]
```diff
@@ -0,0 +1,220 @@
...
+@[symm]
+theorem TuringEquivalent.symm {f g : ℕ →. ℕ} (h : f ≡ᵀ g) : g ≡ᵀ f :=
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:172]:
```suggestion
protected theorem TuringEquivalent.symm (h : f ≡ᵀ g) : g ≡ᵀ f :=
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 25]
```diff
@@ -0,0 +1,220 @@
...
+  Equivalence.symm equivalence h
+
+@[trans]
+theorem TuringEquivalent.trans (f g h : ℕ →. ℕ) (h₁ : f ≡ᵀ g) (h₂ : g ≡ᵀ h) : f ≡ᵀ h :=
+  Equivalence.trans equivalence h₁ h₂
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:177]:
```suggestion
protected theorem TuringEquivalent.trans (hfg : f ≡ᵀ g) (hgh : g ≡ᵀ h) : f ≡ᵀ h :=
  Equivalence.trans equivalence hfg hgh
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 26]
```diff
@@ -0,0 +1,220 @@
...
+
+/--
+Turing degrees are the equivalence classes of partial functions under Turing equivalence.
+-/
+abbrev TuringDegree :=
+  Antisymmetrization _ TuringReducible
+
+instance TuringDegree.isPartialOrder : PartialOrder TuringDegree :=
+  @instPartialOrderAntisymmetrization (ℕ →. ℕ)
+    {le := TuringReducible, le_refl := TuringReducible.refl, le_trans := @TuringReducible.trans}
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:194]:
```suggestion
private instance : Preorder (ℕ →. ℕ) where
  le := TuringReducible
  le_refl := .refl
  le_trans _ _ _ := TuringReducible.trans

instance TuringDegree.instPartialOrder : PartialOrder TuringDegree :=
  instPartialOrderAntisymmetrization
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 27]
```diff
@@ -0,0 +1,220 @@
...
+
+lemma partrec_iff_partrec_in_empty (f : ℕ →. ℕ) : Nat.Partrec f ↔ RecursiveIn {} f := by
+  constructor
+  intros pF
+  · induction' pF with f' g' _ _ ih₁ ih₂ f' g' _ _ ih₁ ih₂ f' g' _ _ ih₁ ih₂ f' _ ih
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:199]:
```suggestion
@[simp] lemma recursiveIn_empty_iff_partrec : RecursiveIn {} f ↔ Nat.Partrec f  where
  mp fRecInNone := by
    induction' fRecInNone with g hg g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g _ ih
    repeat {constructor}
    · simp at hg
    repeat {constructor; assumption; try assumption}
  mpr pF := by
    induction' pF with f' g' _ _ ih₁ ih₂ f' g' _ _ ih₁ ih₂ f' g' _ _ ih₁ ih₂ f' _ ih
```

File: Mathlib/Computability/TuringDegrees.lean [hunk 28]
```diff
@@ -0,0 +1,220 @@
...
+      apply RecursiveIn.comp ih₁ ih₂
+    · case prec =>
+      apply RecursiveIn.prec ih₁ ih₂
+    · case rfind =>
+      apply RecursiveIn.rfind ih
+  · intro fRecInNone
+    induction' fRecInNone with g hg g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g h _ _ ih₁ ih₂ g _ ih
+    repeat {constructor}
+    · simp at hg
+    repeat {constructor; assumption; try assumption}
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:213]:
```suggestion

```

File: Mathlib/Computability/TuringDegrees.lean [hunk 29]
```diff
@@ -0,0 +1,220 @@
...
+
+/--
+An alternative definition of partial recursive in terms of oracle computability:
+A partial recursive function is a function which is recursive in the empty set
+-/
+def Partrec₃ (f : ℕ →. ℕ) : Prop :=
+  RecursiveIn {} f
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:220]: A definition without API is no good. Do you really think we should have this? Maybe you could make it an `example` instead:
```suggestion
/--
An alternative definition of partial recursive in terms of oracle computability:
A partial recursive function is a function which is recursive in the empty set
-/
example (f : ℕ →. ℕ) : Prop :=
  RecursiveIn {} f
```

File: Mathlib/Computability/TuringDegrees.lean
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegrees.lean:1]: We tend to keep file names singular unless there is a strong reason not to

**Review by YaelDillies — COMMENTED** [review]
Thank you for the PR! I would like to apologise on behalf of the reviewer team for the process being so long. This is due to a lack of computability reviewers.

Some general comments:
* You make too many variables explicit
* You should use `protected` more liberally
* No need to parenthesize a terminal `fun`
* `Iff` is a structure, so `where` notation is possible

**Comment by tannerduve** [comment]
Thanks for your suggestions! I committed them all, not sure how to fix this build error that results.

**Comment by YaelDillies** [comment]
Fixed! It looks like you didn't accept all the suggestions you resolved

**Comment by tannerduve** [comment]
Okay got things working. Let me know if you have other suggestions!

File: Mathlib/Computability/TuringDegree.lean [hunk 30]
```diff
@@ -0,0 +1,217 @@
...
+- `f ≤ᵀ g` : `f` is Turing reducible to `g`.
+- `f ≡ᵀ g` : `f` is Turing equivalent to `g`.
+
+## Implementation Notes
+
+The type of partial functions recursive in an oracle `g` is the smallest type containing
+the constant zero, the successor, projections, the oracle `g`, and is closed under
+pairing, composition, primitive recursion, and μ-recursion.
+
+## References
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegree.lean:37]:
```suggestion
## References

```

File: Mathlib/Computability/TuringDegree.lean [hunk 31]
```diff
@@ -0,0 +1,217 @@
...
+* [Carneiro2018] Carneiro, Mario.
+  *Formalizing Computability Theory via Partial Recursive Functions*.
+  arXiv preprint arXiv:1810.08380, 2018.
+* [Odifreddi1989] Odifreddi, Piergiorgio.
+  *Classical Recursion Theory: The Theory of Functions and Sets of Natural Numbers,
+  Vol. I*. Springer-Verlag, 1989.
+* [Soare1987] Soare, Robert I. *Recursively Enumerable Sets and Degrees*. Springer-Verlag, 1987.
+* [Gu2015] Gu, Yi-Zhi. *Turing Degrees*. Institute for Advanced Study, 2015.
+
+## Tags
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegree.lean:47]:
```suggestion
## Tags

```

File: Mathlib/Computability/TuringDegree.lean [hunk 32]
```diff
@@ -0,0 +1,217 @@
...
+Computability, Oracle, Turing Degrees, Reducibility, Equivalence Relation
+-/
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegree.lean:49]:
```suggestion
-/

```

File: Mathlib/Computability/TuringDegree.lean [hunk 33]
```diff
@@ -0,0 +1,217 @@
...
+open Primrec Nat.Partrec Part
+
+variable {f g h : ℕ →. ℕ}
+
+/-!
+This section defines a model of oracle computability and defines
+Turing reducibility and Turing equivalence. We define the Turing Degrees as the quotient under
+Turing equivalence relation
+-/
```
Comment (YaelDillies) [inline Mathlib/Computability/TuringDegree.lean:58]: Are you going to add more sections later? It's a bit weird documenting the unique section as a section rather than as the file

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Computability/TuringDegree.lean (hunk 33 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegree.lean:58]: Oh, this should say file. Thanks

**Comment by tannerduve** [comment]
Also just fixed the documentation stuff (spaces etc.) sorry I missed that last time

**Comment by YaelDillies** [comment]
Don't forget to resolve comments and to remove `awaiting-author` once you've addressed them all! Our reviewing automation uses that to let reviewers know what to review next.

File: Mathlib/Computability/TuringDegree.lean [hunk 34]
```diff
@@ -0,0 +1,214 @@
...
+
+The type of partial functions recursive in an oracle `g` is the smallest type containing
+the constant zero, the successor, projections, the oracle `g`, and is closed under
+pairing, composition, primitive recursion, and μ-recursion.
+
+## References
+
+* [Carneiro2018] Carneiro, Mario.
+  *Formalizing Computability Theory via Partial Recursive Functions*.
+  arXiv preprint arXiv:1810.08380, 2018.
```
Comment (b-mehta) [inline Mathlib/Computability/TuringDegree.lean:41]: I think this is already in mathlib's bibliography, so you don't need a full ref here. If you do though, maybe it's better to give the published version: https://drops.dagstuhl.de/entities/document/10.4230/LIPIcs.ITP.2019.12

File: Mathlib/Computability/TuringDegree.lean [hunk 35]
```diff
@@ -0,0 +1,214 @@
...
+* [Odifreddi1989] Odifreddi, Piergiorgio.
+  *Classical Recursion Theory: The Theory of Functions and Sets of Natural Numbers,
+  Vol. I*. Springer-Verlag, 1989.
+* [Soare1987] Soare, Robert I. *Recursively Enumerable Sets and Degrees*. Springer-Verlag, 1987.
+* [Gu2015] Gu, Yi-Zhi. *Turing Degrees*. Institute for Advanced Study, 2015.
+
```
Comment (b-mehta) [inline Mathlib/Computability/TuringDegree.lean:47]: Let's make sure these are added to mathlib's bibliography!

File: Mathlib/Computability/TuringDegree.lean [hunk 36]
```diff
@@ -0,0 +1,214 @@
...
+      apply RecursiveIn.prec ih₁ ih₂
+    · case rfind =>
+      apply RecursiveIn.rfind ih
+
+/--
+An alternative definition of partial recursive in terms of oracle computability:
+A partial recursive function is a function which is recursive in the empty set
+-/
+example (f : ℕ →. ℕ) : Prop :=
+  RecursiveIn {} f
```
Comment (b-mehta) [inline Mathlib/Computability/TuringDegree.lean:214]: I don't think we gain much from this, especially since the previous lemma exists

File: Mathlib/Computability/TuringDegree.lean [hunk 37]
```diff
@@ -0,0 +1,214 @@
...
+      RecursiveIn O fun p =>
+        let (a, n) := Nat.unpair p
+        n.rec (f a) fun y IH => do
+          let i ← IH
+          h (Nat.pair a (Nat.pair y i))
+  | rfind {f : ℕ →. ℕ} (hf : RecursiveIn O f) :
+      RecursiveIn O fun a =>
+        Nat.rfind fun n => (fun m => m = 0) <$> f (Nat.pair a n)
+/--
+`f` is turing reducible to `g` if `f` is partial recursive given access to the oracle `g`
```
Comment (b-mehta) [inline Mathlib/Computability/TuringDegree.lean:82]:
```suggestion
`f` is Turing reducible to `g` if `f` is partial recursive given access to the oracle `g`
```

File: Mathlib/Computability/TuringDegree.lean [hunk 38]
```diff
@@ -0,0 +1,214 @@
...
+-/
+import Mathlib.Computability.Partrec
+import Mathlib.Order.Antisymmetrization
+
+/-!
+# Oracle Computability and Turing Degrees
+
+This file defines a model of oracle computability, introduces Turing reducibility and equivalence,
+proves that Turing equivalence is an equivalence relation, and defines Turing degrees as the
+quotient under this relation.
```
Comment (b-mehta) [inline Mathlib/Computability/TuringDegree.lean:14]: I think it's helpful to say in the module docstring how this relates to partial recursive functions too

**Comment by tannerduve** [comment]
> I suspect that a lot of these theorems can be golfed. I'll have a little more time later to try golfing these, but these are just my preliminary style reviews.

Done

File: Mathlib/Computability/TuringDegree.lean (hunk 35 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegree.lean]: Soare was already there, I removed Gu, Yi-Zhi. *Turing Degrees*. Institute for Advanced Study, 2015. because I dont think I actually used it. Added Odifreddi, this was my main reference.

File: Mathlib/Computability/TuringDegree.lean (hunk 36 above)
Comment (tannerduve) [reply Mathlib/Computability/TuringDegree.lean]: Removed. We've discussed eventually changing the definition of partial recursive to be RecursiveIn Empty, which is why I had this. But no need for it yet.

File: Mathlib/Computability/TuringDegree.lean [hunk 39]
```diff
@@ -0,0 +1,202 @@
...
+-/
+import Mathlib.Computability.Partrec
+import Mathlib.Order.Antisymmetrization
+
+/-!
+# Oracle Computability and Turing Degrees
+
+This file defines a model of oracle computability using partial recursive functions.
+THis file introduces Turing reducibility and equivalence, prove that Turing equivalence is an
+equivalence relation, and define Turing degrees as the quotient under this relation.
```
Comment (b-mehta) [inline Mathlib/Computability/TuringDegree.lean:14]:
```suggestion
This file introduces Turing reducibility and equivalence, prove that Turing equivalence is an
equivalence relation, and defines Turing degrees as the quotient under this relation.
```

File: Mathlib/Computability/TuringDegree.lean [hunk 40]
```diff
@@ -0,0 +1,202 @@
...
+
+Computability, Oracle, Turing Degrees, Reducibility, Equivalence Relation
+-/
+
+open Primrec Nat.Partrec Part
+
+variable {f g h : ℕ →. ℕ}
+
+/--
+The type of partial functions recursive in a set of oracle `O` is the smallest type containing
```
Comment (b-mehta) [inline Mathlib/Computability/TuringDegree.lean:53]:
```suggestion
The type of partial functions recursive in a set of oracles `O` is the smallest type containing
```

**Review by b-mehta — APPROVED** [review]
Nice, thanks! I made two tiny doc suggestions, otherwise this looks good to go, nice work.

bors d+
